US04299769
1-[3-Acetylthio-3-(5-chloro-3-thenoyl)propionyl]-L-proline
As for Example 8, 3-(5-chloro-3-thenoyl)propionic acid is coupled to L-proline with 1,1'-carbonyldiimidazole. The coupled product is reacted with bromine in acetic acid and the brominated derivative is reacted with sodium thioacetate in acetonitrile to give the product of the Example as a glass.

reactant | 3-(5-chloro-3-thenoyl)propionic acid | ClC1=CC(=CS1)C(=O)CCC(=O)O | C8H7ClO3S
reactant | L-proline | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | 1,1'-carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | bromine | BrBr | Br2
reactant | sodium thioacetate | C(C)(=S)[O-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-[3-Acetylthio-3-(5-chloro-3-thenoyl)propionyl]-L-proline | C(C)(=O)SC(CC(=O)N1[C@H](C(=O)O)CCC1)C(C1=CSC(=C1)Cl)=O | C15H16ClNO5S2
